US07253165B2
Synthesis of (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone (Scheme I, Compound and Scheme V, Compound 4)
Combine 2,4-difluorobenzoyl chloride (227.8 g, 1.29 mol), anisole (154.2 mL, 1.42 mol) and 1,2-dichloroethane (2.28 L) and cool (−3° C.) under a nitrogen atomosphere. Add aluminum chloride (209.8 g, 1.57 mol) over 45 minutes. The solution color turns from clear to yellow. Pour the reaction mixture over a mixture of ice (1700 g) and concentrated HCl (640 mL) over 2 minutes. The color of the mixture turns from yellow to clear. Separate layers and wash organic layer with 10% potassium carbonate (1600 mL), water (1600 mL), dry (MgSO4), filter and concentrate to give a solid. Stir the solid in heptane (960 mL) and filter to give the title compound as a white solid (258.1 g, 81% Yield): 1H NMR (CDCl3, 200 MHz) δ 3.9 (s, 3H), 6.95 (m, 4H), 7.55 (quar, 1H), 7.8 (d, 2H). Purity by LC/MS (APCl)=100% area, [M+H]+=248 m/e.

reactant | 2,4-difluorobenzoyl chloride | 1.29 mol, 227.8 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | anisole | 1.42 mol, 154.2 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum chloride | 1.57 mol, 209.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 640 mL | Cl | ClH
solvent | heptane | 960 mL | CCCCCCC | C7H16
solvent | 1,2-dichloroethane | 2.28 L | ClCCCl | C2H4Cl2
product | (2,4-difluoro-phenyl)-(4-methoxy-phenyl)-methanone | 258.1 g, 81% Yield | FC1=C(C=CC(=C1)F)C(=O)C1=CC=C(C=C1)OC | C14H10F2O2
